// Generated for: spectre
// Generated on: May  1 07:52:06 2026
// Design library name: ESE6680_PROJECT3
// Design cell name: 8bit_test
// Design view name: schematic
simulator lang=spectre
global 0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE6680_PROJECT3
// Cell name: inv
// View name: schematic
subckt inv IN OUT VDD
    N0 (OUT IN 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P0 (OUT IN VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
ends inv
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: buffer
// View name: schematic
subckt buffer IN OUT VDD
    I1 (net5 OUT VDD) inv
    I0 (IN net5 VDD) inv
ends buffer
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: nand
// View name: schematic
subckt nand A B OUT VDD
    N1 (net9 B 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (OUT A net9 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P1 (OUT B VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    P0 (OUT A VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
ends nand
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: non_overlapping_clock
// View name: schematic
subckt non_overlapping_clock CLK Phi1 Phi1E Phi2 VDD
    I210 (net24 net13 VDD) buffer
    I209 (net23 net24 VDD) buffer
    I208 (net22 net23 VDD) buffer
    I207 (net21 net22 VDD) buffer
    I206 (net15 net20 VDD) buffer
    I205 (net26 Phi1 VDD) buffer
    I204 (net27 net26 VDD) buffer
    I203 (net35 net34 VDD) buffer
    I202 (net33 Phi1E VDD) buffer
    I201 (net34 net33 VDD) buffer
    I214 (net16 net13 Phi2 VDD) nand
    I213 (net20 net12 net21 VDD) nand
    I198 (net12 net10 net27 VDD) nand
    I197 (CLK net16 net10 VDD) nand
    I215 (CLK net15 VDD) inv
    I212 (net25 net16 VDD) inv
    I211 (net13 net25 VDD) inv
    I200 (Phi1E net12 VDD) inv
    I199 (net10 net35 VDD) inv
ends non_overlapping_clock
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: Final_StaticComparator
// View name: schematic
subckt Final_StaticComparator Gnd STROBE Vdd Vi1 Vi2 Vo1 Vo2
    I0 (net58 Gnd) isource type=dc dc=60u m=1
    P7 (net023 STROBE net09 net029) ami06P w=10.05u l=600n as=1.5075e-11 \
        ad=1.5075e-11 ps=23.1u pd=23.1u m=1 region=sat
    P6 (net09 STROBE net023 net029) ami06P w=10.05u l=600n as=1.5075e-11 \
        ad=1.5075e-11 ps=23.1u pd=23.1u m=1 region=sat
    P5 (Vdd net03 Vo2 Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P4 (Vdd net09 net03 Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P3 (Vdd net023 net09 Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P2 (net023 net09 Vdd Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (Vo1 net018 Vdd Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P0 (net018 net023 Vdd Vdd) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N5 (Vo1 net018 Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (net018 net023 Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N1 (Gnd net09 net03 Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N0 (Gnd net03 Vo2 Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N2 (net09 Vi1 net58 net026) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N3 (net58 Vi2 net023 net026) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
ends Final_StaticComparator
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: Vref_gen
// View name: schematic
subckt Vref_gen GND VC VC\' VDD VREF
    R3 (\3\.25V GND) resistor r=3.25K
    R2 (VDD \3\.25V) resistor r=1.75K
    R1 (\1\.75V GND) resistor r=1.75K
    R0 (VDD \1\.75V) resistor r=3.25K
    N1 (VREF VC\' \1\.75V GND) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N0 (VREF VC \3\.25V GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (VREF VC\' \3\.25V VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P0 (VREF VC \1\.75V VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends Vref_gen
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: m_opamp
// View name: schematic
subckt m_opamp GND VDD Vin\+ Vin\- Vout
    M4 (net77 net74 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M3 (net74 net74 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M6 (Vout net77 GND GND) ami06N w=58.05u l=900n as=8.7075e-11 \
        ad=8.7075e-11 ps=119.1u pd=119.1u m=1 region=sat
    M7 (Vout net73 VDD VDD) ami06P w=133.95u l=1.2u as=2.00925e-10 \
        ad=2.00925e-10 ps=270.9u pd=270.9u m=1 region=sat
    M5 (net81 net73 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M8 (net73 net73 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M2 (net77 Vin\+ net81 VDD) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    M1 (net74 Vin\- net81 VDD) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    Iref (net73 GND) isource type=dc dc=60u m=1
    Cc (net84 Vout) capacitor c=1p m=1
    Rc (net77 net84) resistor r=1K m=1
ends m_opamp
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: Final_MDAC
// View name: schematic
subckt Final_MDAC GND Phi1 Phi1E Phi2 VDD Vin\+ Vin\- Vout
    N2 (Vout Phi2 net100 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N1 (net102 Phi1 net100 GND) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N0 (net99 Phi1E net107 GND) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N3 (Vin\+ Phi2 net97 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (net97 Phi1 Vin\- GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N6 (iPhi2 Phi2 GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N5 (iPhi1 Phi1 GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (Vout iPhi2 net100 VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P2 (net102 iPhi1 net100 VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P0 (net97 iPhi1 Vin\- VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P3 (Vin\+ iPhi2 net97 VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P5 (iPhi2 Phi2 VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P4 (iPhi1 Phi1 VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    Cf (net99 net100) capacitor c=1p m=1
    Cs (net97 net99) capacitor c=2p m=1
    V2 (net102 GND) vsource type=dc dc=2.5
    V0 (net106 GND) vsource type=dc dc=2.5
    V1 (net107 GND) vsource type=dc dc=2.5
    I0 (GND VDD net106 net99 Vout) m_opamp
ends Final_MDAC
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: BOOT_THA
// View name: schematic
subckt BOOT_THA CLKS GND VDD VIN VOUT
    N7 (GND CLKS_ VY GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N6 (VY VDD VG GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N5 (CLKS_ CLKS GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (VBOTT CLKS_ GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N3 (VOUT VG VIN GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N2 (VIN VG VBOTT GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N1 (VBOTT VG VX GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N0 (VX CLKS VBOTT GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P4 (VOUT CLKS_ VIN VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P3 (VG VX VTOP VTOP) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P2 (VDD VG VTOP VTOP) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (VX CLKS VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P0 (CLKS_ CLKS VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    C1 (VOUT GND) capacitor c=1p
    C0 (VTOP VBOTT) capacitor c=1p
ends BOOT_THA
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: DFF
// View name: schematic
subckt DFF CLK D GND Q VDD
    N8 (net21 CLK\' net19 GND) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N7 (net19 CLK net18 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N6 (net11 CLK net9 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N5 (net9 CLK\' D GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (CLK\' CLK GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N3 (GND Q net21 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N2 (Q net19 GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N1 (GND net18 net11 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N0 (net18 net9 GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P4 (net21 Q VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P3 (VDD net19 Q VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P2 (CLK\' CLK VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (VDD net18 net11 VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P0 (net18 net9 VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends DFF
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: one_bit_stage
// View name: schematic
subckt one_bit_stage BIT CLKIN GND VDD VIN VOUT
    I0 (CLKIN PHI1 PHI1E PHI2 VDD) non_overlapping_clock
    I1 (GND PHI2 VDD BOOT_VOUT DC Vo1 Vo2) Final_StaticComparator
    I2 (GND Vo1 Vo2 VDD VREF) Vref_gen
    I3 (GND PHI1 PHI1E PHI2 VDD BOOT_VOUT VREF VOUT) Final_MDAC
    I4 (PHI1 GND VDD VIN BOOT_VOUT) BOOT_THA
    V0 (DC GND) vsource dc=2.5 type=dc
    I16 (CLKIN Vo1 GND BIT VDD) DFF
ends one_bit_stage
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: SR1
// View name: schematic
subckt SR1 CLKIN GND SR1IP SR1OP VDD
    I0 (CLKIN SR1IP GND SR1OP VDD) DFF
ends SR1
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: SR2
// View name: schematic
subckt SR2 CLKIN GND SR2IP SR2OP VDD
    I1 (CLKIN net17 GND SR2OP VDD) DFF
    I0 (CLKIN SR2IP GND net17 VDD) DFF
ends SR2
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: SR3
// View name: schematic
subckt SR3 CLKIN GND SR3IP SR3OP VDD
    I2 (CLKIN net16 GND SR3OP VDD) DFF
    I1 (CLKIN net17 GND net16 VDD) DFF
    I0 (CLKIN SR3IP GND net17 VDD) DFF
ends SR3
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: SR4
// View name: schematic
subckt SR4 CLKIN GND SR4IP SR4OP VDD
    I3 (CLKIN net32 GND SR4OP VDD) DFF
    I2 (CLKIN net31 GND net32 VDD) DFF
    I1 (CLKIN net30 GND net31 VDD) DFF
    I0 (CLKIN SR4IP GND net30 VDD) DFF
ends SR4
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: SR5
// View name: schematic
subckt SR5 CLKIN GND SR5IP SR5OP VDD
    I4 (CLKIN net40 GND SR5OP VDD) DFF
    I3 (CLKIN net43 GND net40 VDD) DFF
    I2 (CLKIN net41 GND net43 VDD) DFF
    I1 (CLKIN net42 GND net41 VDD) DFF
    I0 (CLKIN SR5IP GND net42 VDD) DFF
ends SR5
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: SR6
// View name: schematic
subckt SR6 CLKIN GND SR6IP SR6OP VDD
    I5 (CLKIN net33 GND SR6OP VDD) DFF
    I4 (CLKIN net34 GND net33 VDD) DFF
    I3 (CLKIN net35 GND net34 VDD) DFF
    I2 (CLKIN net36 GND net35 VDD) DFF
    I1 (CLKIN net37 GND net36 VDD) DFF
    I0 (CLKIN SR6IP GND net37 VDD) DFF
ends SR6
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: SR7
// View name: schematic
subckt SR7 CLKIN GND SR7IP SR7OP VDD
    I6 (CLKIN net56 GND SR7OP VDD) DFF
    I5 (CLKIN net61 GND net56 VDD) DFF
    I4 (CLKIN net57 GND net61 VDD) DFF
    I3 (CLKIN net58 GND net57 VDD) DFF
    I2 (CLKIN net59 GND net58 VDD) DFF
    I1 (CLKIN net60 GND net59 VDD) DFF
    I0 (CLKIN SR7IP GND net60 VDD) DFF
ends SR7
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: 8bit_ADC
// View name: schematic
subckt ESE6680_PROJECT3_8bit_ADC_schematic B1 B2 B3 B4 B5 B6 B7 B8 CLKIN \
        GND VDD VIN VOUT1 VOUT2 VOUT3 VOUT4 VOUT5 VOUT6 VOUT7 VOUT8
    I21 (SB7 CLKIN GND VDD VOUT6 VOUT7) one_bit_stage
    I20 (SB6 CLKIN GND VDD VOUT5 VOUT6) one_bit_stage
    I19 (SB5 CLKIN GND VDD VOUT4 VOUT5) one_bit_stage
    I18 (SB4 CLKIN GND VDD VOUT3 VOUT4) one_bit_stage
    I17 (SB3 CLKIN GND VDD VOUT2 VOUT3) one_bit_stage
    I16 (SB2 CLKIN GND VDD VOUT1 VOUT2) one_bit_stage
    I8 (SB1 CLKIN GND VDD VIN VOUT1) one_bit_stage
    I22 (B8 CLKIN GND VDD VOUT7 VOUT8) one_bit_stage
    I23 (CLKIN GND SB7 B7 VDD) SR1
    I24 (CLKIN GND SB6 B6 VDD) SR2
    I25 (CLKIN GND SB5 B5 VDD) SR3
    I26 (CLKIN GND SB4 B4 VDD) SR4
    I27 (CLKIN GND SB3 B3 VDD) SR5
    I28 (CLKIN GND SB2 B2 VDD) SR6
    I29 (CLKIN GND SB1 B1 VDD) SR7
ends ESE6680_PROJECT3_8bit_ADC_schematic
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: 8bit_test
// View name: schematic
I0 (B1 B2 B3 B4 B5 B6 B7 B8 CLKIN 0 VDD VIN VOUT1 VOUT2 VOUT3 VOUT4 VOUT5 \
        VOUT6 VOUT7 VOUT8) ESE6680_PROJECT3_8bit_ADC_schematic
V1 (VDD 0) vsource dc=5 type=dc
V4 (VIN 0) vsource dc=2.5 type=sine ampl=1.5 freq=500K
V5 (CLKIN 0) vsource type=pulse val0=0 val1=5 period=100n rise=10p \
        fall=10p width=50n
I5 (B1 B2 B3 B4 B5 B6 B7 B8 vout) dac_8bit_ideal
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=30u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
ahdl_include "/lcars/software/linux/x86_64/ic-design/cadence/IC618/tools/dfII/samples/artist/ahdlLib/dac_8bit_ideal/veriloga/veriloga.va"
