// Generated for: spectre
// Generated on: Feb 22 23:05:34 2026
// Design library name: ESE_6680
// Design cell name: Current_Mirror
// Design view name: schematic
simulator lang=spectre
global 0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE_6680
// Cell name: Current_Mirror
// View name: schematic
R0 (net07 out) resistor r=74.17K m=1
V0 (net07 0) vsource type=dc dc=4
M9 (out out 0 0) ami06N w=7.95u l=7.95u as=1.1925e-11 ad=1.1925e-11 \
        ps=18.9u pd=18.9u m=1 region=sat
M10 (out out 0 0) ami06N w=24.0u l=1.5u as=3.6e-11 ad=3.6e-11 ps=51.0u \
        pd=51.0u m=1 region=sat
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
