// Generated for: spectre
// Generated on: Feb 22 23:18:26 2026
// Design library name: ESE_6680
// Design cell name: Current_Mirror_OPAMP_Test
// Design view name: schematic
simulator lang=spectre
global 0
parameters Cc=1.1p Rc=4.15K Vdd=4 Ibias=40u L1_2=3u L3_4=3u L5=1.75u \
    L6=1.625u L7=3u L8=3u Vcm=2.5 W1_2=5.2e-05 W3_4=2e-06 W5=32.5u \
    W6=4.4e-05 W7=0.00019 W8=45u
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE_6680
// Cell name: Current_Mirror
// View name: schematic
subckt Current_Mirror GND VDD out
    R0 (VDD out) resistor r=74.17K m=1
    M9 (out out GND GND) ami06N w=7.95u l=7.95u as=1.1925e-11 \
        ad=1.1925e-11 ps=18.9u pd=18.9u m=1 region=sat
    M10 (out out GND GND) ami06N w=24.0u l=1.5u as=3.6e-11 ad=3.6e-11 \
        ps=51.0u pd=51.0u m=1 region=sat
ends Current_Mirror
// End of subcircuit definition.

// Library name: ESE_6680
// Cell name: Current_Mirror_OPAMP
// View name: schematic
subckt Current_Mirror_OPAMP Gnd Output Vdd Vin\+ Vin\-
    M6 (Output net51 Gnd Gnd) ami06N w=W6 l=L6 as=W6 * 2.5 * (600n) ad=W6 * 2.5 * (600n) \
         ps=(2 * W6) + (5 * (600n)) pd=(2 * W6) + (5 * (600n)) m=1 \
        region=sat
    M3 (net45 net45 Gnd Gnd) ami06N w=W3_4 l=L3_4 as=W3_4 * 2.5 * (600n) ad=W3_4 * 2.5 * (600n) \
         ps=(2 * W3_4) + (5 * (600n)) pd=(2 * W3_4) + (5 * (600n)) m=1 \
        region=sat
    M4 (net51 net45 Gnd Gnd) ami06N w=W3_4 l=L3_4 as=W3_4 * 2.5 * (600n) ad=W3_4 * 2.5 * (600n) \
         ps=(2 * W3_4) + (5 * (600n)) pd=(2 * W3_4) + (5 * (600n)) m=1 \
        region=sat
    Rc (net51 net55) resistor r=Rc m=1
    Cc (net55 Output) capacitor c=Cc m=1
    M7 (Output net44 Vdd Vdd) ami06P w=W7 l=L7 as=W7 * 2.5 * (600n) ad=W7 * 2.5 * (600n) \
         ps=(2 * W7) + (5 * (600n)) pd=(2 * W7) + (5 * (600n)) m=1 \
        region=sat
    M8 (net44 net44 Vdd Vdd) ami06P w=W8 l=L8 as=W8 * 2.5 * (600n) ad=W8 * 2.5 * (600n) \
         ps=(2 * W8) + (5 * (600n)) pd=(2 * W8) + (5 * (600n)) m=1 \
        region=sat
    M5 (net48 net44 Vdd Vdd) ami06P w=W5 l=L5 as=W5 * 2.5 * (600n) ad=W5 * 2.5 * (600n) \
         ps=(2 * W5) + (5 * (600n)) pd=(2 * W5) + (5 * (600n)) m=1 \
        region=sat
    M1 (net45 Vin\- net48 net48) ami06P w=W1_2 l=L1_2 as=W1_2 * 2.5 * (600n) \
         ad=W1_2 * 2.5 * (600n) ps=(2 * W1_2) + (5 * (600n)) pd=(2 * W1_2) + (5 * (600n)) \
         m=1 region=sat
    M2 (net51 Vin\+ net48 net48) ami06P w=W1_2 l=L1_2 as=W1_2 * 2.5 * (600n) \
         ad=W1_2 * 2.5 * (600n) ps=(2 * W1_2) + (5 * (600n)) pd=(2 * W1_2) + (5 * (600n)) \
         m=1 region=sat
    I0 (Gnd Vdd net44) Current_Mirror
ends Current_Mirror_OPAMP
// End of subcircuit definition.

// Library name: ESE_6680
// Cell name: Current_Mirror_OPAMP_Test
// View name: schematic
C3 (Output1 0) capacitor c=2p m=1
C5 (Output3 0) capacitor c=2p m=1
C2 (Output4 0) capacitor c=2p m=1
C4 (Output2 0) capacitor c=2p m=1
V12 (net15 0) vsource type=dc dc=Vdd
V17 (net22 0) vsource type=dc dc=Vdd
V11 (net16 0) vsource type=dc dc=2.5 mag=500m
V10 (net29 0) vsource type=dc dc=2.5 mag=-500m
V14 (net28 0) vsource type=dc dc=2.5 mag=500m
V13 (net24 0) vsource type=dc dc=2.5 mag=500m
V16 (net21 0) vsource type=dc dc=Vdd
V15 (net14 0) vsource type=dc dc=Vdd
V8 (net23 0) vsource type=dc dc=Vcm mag=500m
V7 (net27 0) vsource type=dc dc=Vcm mag=-500m
V0 (net17 0) vsource type=pulse dc=2.5 mag=500m val0=0 val1=5 period=20u \
        rise=1p fall=1p width=10u
I3 (0 Output2 net14 net17 Output2) Current_Mirror_OPAMP
I2 (0 Output4 net21 net23 net27) Current_Mirror_OPAMP
I1 (0 Output3 net22 net24 net28) Current_Mirror_OPAMP
I0 (0 Output1 net15 net16 net29) Current_Mirror_OPAMP
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=10 stop=10G annotate=status 
tran tran stop=100u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V12:p 
saveOptions options save=allpub
