// Generated for: spectre
// Generated on: Apr  2 09:59:06 2026
// Design library name: SEMICONDUCTOR_MEMORY
// Design cell name: ITIR_cell
// Design view name: schematic
simulator lang=spectre
global 0
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06P.m"

// Library name: SEMICONDUCTOR_MEMORY
// Cell name: ITIR_cell
// View name: schematic
I0 (BL net6) rram_cell Ron=1000 Roff=100000 D=1e-08 uv=1e-14 p=10 x0=0.5
N0 (net6 WL SL 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u pd=6u \
        m=1 region=sat
V0 (WL 0) vsource type=pulse val0=0 val1=1.8 period=100n rise=100p \
        fall=100p width=50n
V2 (SL 0) vsource type=dc dc=0
V1 (BL 0) vsource type=dc dc=1.5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
ahdl_include "/lcars/home/p/patel5/cadenceAMI/SEMICONDUCTOR_MEMORY/rram_cell/veriloga/veriloga.va"
